US07557221B2
(R)-5-[4-(2-Hydroxy-ethoxy)-phenyl]-3-[(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-methyl-propyl]-imidazolidine-2,4-dione
To the solution of (S)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (0.33 g, 1.5 mmol), 4-iodo-benzene-1,2-diamine (0.35 g, 1.5 mmol) and diisopropylethyl amine (0.8 mL, 4.5 mmol) in N,N-dimethylformamide (6 mL) was added dropwise a solution of O-benzotriazol-1-yl-N,N, N′,N′-tetramethyluronium hexaflurorophosphate (0.71 g, 1.75 mmol) N,N-dimethylformamide (2 mL). The reaction mixture was stirred for 12 hours at room temperature. After adding aqueous sodium carbonate solution, the reaction mixture was extracted with ethyl acetate and the organic layer was washed with aqueous sodium carbonate solution and brine, dried over sodium sulfate, filtered, and concentrated to give a mixture of regioisomers, [(S)-1-(2-amino-4-iodo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester and [(S)-1-(2-amino-5-iodo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (0.65 g, 100%).

reactant | (S)-2-tert-butoxycarbonylamino-3-methyl-butyric acid | 1.5 mmol, 0.33 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | 4-iodo-benzene-1,2-diamine | 1.5 mmol, 0.35 g | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | diisopropylethyl amine | 4.5 mmol, 0.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N, N′,N′-tetramethyluronium | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | [(S)-1-(2-amino-4-iodo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NC1=C(C=C(C=C1)I)N)=O)=O | C16H24IN3O3
reactant | [(S)-1-(2-amino-5-iodo-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.65 g | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NC1=C(C=CC(=C1)I)N)=O)=O | C16H24IN3O3
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.75 mmol, 2 mL, 0.71 g | CN(C=O)C | C3H7NO
product | (R)-5-[4-(2-Hydroxy-ethoxy)-phenyl]-3-[(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-methyl-propyl]-imidazolidine-2,4-dione | OCCOC1=CC=C(C=C1)[C@@H]1C(N(C(N1)=O)[C@@H](C(C)C)C1=NC2=C(N1)C=CC(=C2)I)=O | C22H23IN4O4
